US06046232
Synthesis of α-(3-Ethoxy-4-methoxyphenyl)-N-n-butylnitrone
The title compound was prepared according to the procedures described in Examples 11 using 3-ethoxy-4-methoxybenzaldehyde and N-n-butylhydroxylamine. The title compound was isolated in 41.1 % yield as a solid, m.p. 117.3° C.

reactant | 3-ethoxy-4-methoxybenzaldehyde | C(C)OC=1C=C(C=O)C=CC1OC | C10H12O3
reactant | N-n-butylhydroxylamine | C(CCC)NO | C4H11NO
product | α-(3-Ethoxy-4-methoxyphenyl)-N-n-butylnitrone | C(C)OC=1C=C(C=CC1OC)C=[N+]([O-])CCCC | C14H21NO3
